US06046232
Synthesis of α-(4-Benzyloxy-3-methoxyphenyl)-N-cyclohexylnitrone
The title compound was prepared according to the procedure described in Example 11 using 4-benzyloxy-3-methoxybenzaldehyde and N-cyclohexylhydroxylamine. The title compound was isolated in 97.9% yield as a solid, m.p. 154.1° C.

reactant | 4-benzyloxy-3-methoxybenzaldehyde | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)OC | C15H14O3
reactant | N-cyclohexylhydroxylamine | C1(CCCCC1)NO | C6H13NO
product | α-(4-Benzyloxy-3-methoxyphenyl)-N-cyclohexylnitrone | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C=[N+]([O-])C1CCCCC1)OC | C21H25NO3
